US05508385
After N-benzyloxycarbonyl-L-pyroglutamyl-L-prolyl-L-argininal hydrochloride (0.081 g, 0.15 mmol) was dissolved in dimethlformamide (10 ml), palladium black (1 g) was added to the solution followed by catalytic hydrogenation at room temperature for 30 minutes in a hydrogen flow. After completion of the reaction, the catalyst was filtered off and ether was added to the residue. The precipitated crystals were filtered to give 0.028 g (46%) of L-pyroglutamyl-L-prolyl-L-argininal hydrochloride.

reactant | N-benzyloxycarbonyl-L-pyroglutamyl-L-prolyl-L-argininal hydrochloride | 0.15 mmol, 0.081 g | Cl.C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1
reactant | hydrogen | [H][H] | H2
solvent | dimethlformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | palladium black | 1 g | [Pd] | Pd
product | L-pyroglutamyl-L-prolyl-L-argininal hydrochloride | 0.028 g, 46% | Cl.N1[C@@H](CCC1=O)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1 | InChI=1S/C16H26N6O4.ClH/c17-16(18)19-7-1-3-10(9-23)20-14(25)12-4-2-8-22(12)15(26)11-5-6-13(24)21-11;/h9-12H,1-8H2,(H,20,25)(H,21,24)(H4,17,18,19);1H/t10-,11-,12-;/m0./s1
